US06127354
(2-Nitrophenyl)acetic acid (10.0 g, 55.21 mmol) was dissolved in N,N-dimethylformamide (15 ml) and dichloromethane (50 ml). 1-Hydroxybenzotriazole hydrate (7.46 g, 55.21 mmol) was added. The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (10.58 g, 55.21 mmol) was added. The solution was stirred for 15 min at 0° C. A 8.0 M solution of methylamine in ethanol (10.3 ml, 82.81 mmol) and ethyldiisopropylamine (9.55 ml, 55.21 mmol) were added successively. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (180 ml) and washed with 10% aqueous sodium hydrogen sulfate solution (100 ml). The aqueous phase was extracted with ethyl acetate (2×40 ml). The combined organic layers were washed with saturated aqueous sodium hydrogen carbonate solution (200 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (200 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent to give 8.01 g of N-methyl-2-(2-nitrophenyl)acetamide.

reactant | (2-Nitrophenyl)acetic acid | 55.21 mmol, 10.0 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | 1-Hydroxybenzotriazole hydrate | 55.21 mmol, 7.46 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 55.21 mmol, 10.58 g | Cl.CN(CCCN=C=NCC)C
reactant | methylamine | CN | CH5N
reactant | ethanol | 82.81 mmol, 10.3 ml | C(C)O | C2H6O
reactant | ethyldiisopropylamine | 55.21 mmol, 9.55 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 180 ml | C(C)(=O)OCC | C4H8O2
product | N-methyl-2-(2-nitrophenyl)acetamide | 8.01 g | CNC(CC1=C(C=CC=C1)[N+](=O)[O-])=O | C9H10N2O3
